US07612114B2
1-[2-(4-Bromophenoxy)ethyl]azepane
To a suspension of 60% sodium hydride (1.6 g) in N,N-dimethylformamide (50 ml) was added 4-bromophenol (3.0 g) under a nitrogen atmosphere, the solution was stirred for 10 minutes at room temperature, then 1-(2-chloroethyl)azepane hydrochloride (4.0 g) and sodium iodide (in catalytic amounts) were sequentially added thereto followed by stirring overnight at 80° C. Water was added thereto followed by stirring, the solution was extracted with ethyl acetate, then sequentially washed with water and brine, and the solvent was evaporated in vacuo. The residue was purified by NH silica gel column chromatography (hexane-ethyl acetate system) to provide the title compound (5.0 g).

reactant | sodium hydride | 1.6 g | [H-].[Na+]
reactant | 4-bromophenol | 3.0 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | 1-(2-chloroethyl)azepane hydrochloride | 4.0 g | Cl.ClCCN1CCCCCC1
reactant | sodium iodide | [I-].[Na+]
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 1-[2-(4-Bromophenoxy)ethyl]azepane | 5.0 g | BrC1=CC=C(OCCN2CCCCCC2)C=C1 | C14H20BrNO
